*
*  ZETEX  ZVP2106G Mosfet Spice Subcircuit   Last revision  3/5/00
*
.SUBCKT ZVP2106G 3 4 5
*                D G S
M1 3 2 5 5 MP2106
RG 4 2 160
RL 3 5 1.2E8
C1 2 5 47E-12
C2 3 2 10E-12 
D1 3 5 DP2106
*
.MODEL MP2106 PMOS VTO=-3.193 RS=2.041 RD=0.697 IS=1E-15 KP=0.277
+CBD=105E-12 PB=1 LAMBDA=1.2E-2
.MODEL DP2106 D IS=2E-13 RS=0.309
.ENDS ZVP2106G
*
*$
*
*                          (C)  1991 ZETEX PLC
*
*   The copyright in this model  and  the design embodied belong to
*   Zetex PLC ("Zetex"). It is supplied free of charge by Zetex for
*   the purpose  of research  and design  and may be used or copied
*   intact (including this notice) for that purpose only. All other
*   rights  are  reserved.  The model  is believed  accurate but no
*   condition or warranty as to its  merchantability or fitness for
*   purpose  is  given  and  no liability  in respect of any use is
*   accepted by Zetex PLC, its distributors or agent.
*
*
*   Zetex PLC, Fields New Road, Chadderton, Oldham  OL9 8NP
